US09056859B2
1-{4-[1-(2,1,3-Benzoxadiazol-5-yl)propan-2-yl]piperazin-1-yl}-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone was prepared in an analogous fashion to that described above for the synthesis of 5-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)propyl]-2-benzofuran-1(3H)-one starting from 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride and 1-(2,1,3-benzoxadiazol-5-yl)propan-2-one. LC/MS: [(M+1)]+=433.

reactant | 5-[2-(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)propyl]-2-benzofuran-1(3H)-one | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)C(CC1=CC2=C(C(OC2)=O)C=C1)C | C24H26N6O3
reactant | 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | 1-(2,1,3-benzoxadiazol-5-yl)propan-2-one | N=1ON=C2C1C=CC(=C2)CC(C)=O | C9H8N2O2
product | 1-{4-[1-(2,1,3-Benzoxadiazol-5-yl)propan-2-yl]piperazin-1-yl}-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone | N=1ON=C2C1C=CC(=C2)CC(C)N2CCN(CC2)C(CC2=CC=C(C=C2)N2N=NN=C2)=O | C22H24N8O2
